US07138395B2
Preparation of 6-allyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester (38):
To a solution of 6-methoxy-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester, 37, (5.0 g, 18.3 mmol) and allyltrimethylsilane (5.8 mL, 36.6 mmol) in CH2Cl2 (125 mL) at −78° C. is added dropwise boron trifluoride etherate (2.5 mL, 19.7 mmol). After 1 h, the solution is poured into water and extracted with EtOAc. The extracts are washed with brine, dried (MgSO4), and concentrated in vacuo. The resulting residue is used in the next step without purification.

reactant | 6-methoxy-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(C(CCC1)OC)C(=O)OC(C)(C)C | C13H23NO5
reactant | allyltrimethylsilane | 36.6 mmol, 5.8 mL | C(C=C)[Si](C)(C)C | C6H14Si
reactant | boron trifluoride etherate | 19.7 mmol, 2.5 mL | B(F)(F)F.CCOCC
reactant | water | O | H2O
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
product | 6-allyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester 2-methyl ester | COC(=O)C1N(C(CCC1)CC=C)C(=O)OC(C)(C)C | C15H25NO4
